US07855216B2
Step 3: 4,5-Dichloronicotinonitrile
To a suspension of 4,5-dichloropyridine-3-carbaldehyde oxime (7.84 g, 41.05 mmol) in dichloromethane (150 ml) was added carbonyl diimidazole (7.99 g, 49.26 mmol). The mixture was then heated to reflux for 1.5 hours before cooling then washing with saturated aqueous sodium bicarbonate (70 ml) and water (70 ml). The organic layer was dried over magnesium sulfate and concentrated in vacuo. Purification of the resultant residue by flash chromatography (Si-PPC, cyclohexane:dichloromethane gradient 20:80 to 0:100) afforded the title compound as a white solid (0.53 g, 72%). LCMS (method B): RT=2.86 min, no ion present.

reactant | 4,5-dichloropyridine-3-carbaldehyde oxime | 41.05 mmol, 7.84 g | ClC1=C(C=NC=C1Cl)C=NO | C6H4Cl2N2O
reactant | carbonyl diimidazole | 49.26 mmol, 7.99 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4,5-Dichloronicotinonitrile | 0.53 g, 72% | ClC1=C(C=NC=C1C#N)Cl | C6H2Cl2N2
